US08426420B2
4-[2-({5-[2-((S)-2-Cyclobutylcarbamoyl-pyrrolidin-1-yl)-2-oxo-ethoxy]-1-phenyl-1H-pyrazole-3-carbonyl}-amino)-acetyl]-piperazine-1-carboxylic acid 3,3,3-trifluoro-propyl ester
To a solution of 22 mg triphosgene and 31 l 3,3,3-trifluoropropan-1-ol in 3 ml dichloromethane were added 37 l DIPEA dropwise at 0° C. After 2 h a solution of 93 mg 5-[2-((S)-2-Cyclobutylcarbamoyl-pyrrolidin-1-yl)-2-oxo-ethoxy]-1-phenyl-1H-pyrazole-3-carboxylic acid (2-oxo-2-piperazin-1-yl-ethyl)-amide and 37 l DIPEA in 1 ml dichloromethane were added at 0° C. The reaction mixture was allowed to warm to RT overnight. Excess triphosgene was destroyed by adding a solution of 140 mg NaOH in 5 ml water and stirring for 2 h. The layers were separated, the organic layer washed with 1 M HCl and dried over MgSO4 and concentrated. The crude product was purified by preparative HPLC (C18 reverse phase column, elution with a water/MeCN gradient with 0.1% TFA) to give the title compound. Yield: 25 mg MS (ES+): m/e=678.

reactant | triphosgene | 22 mg | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | 3,3,3-trifluoropropan-1-ol | 31 l | FC(CCO)(F)F | C3H5F3O
reactant | DIPEA | 37 l | CCN(C(C)C)C(C)C | C8H19N
reactant | 5-[2-((S)-2-Cyclobutylcarbamoyl-pyrrolidin-1-yl)-2-oxo-ethoxy]-1-phenyl-1H-pyrazole-3-carboxylic acid (2-oxo-2-piperazin-1-yl-ethyl)-amide | 93 mg | O=C(CNC(=O)C1=NN(C(=C1)OCC(=O)N1[C@@H](CCC1)C(NC1CCC1)=O)C1=CC=CC=C1)N1CCNCC1 | C27H35N7O5
reactant | DIPEA | 37 l | CCN(C(C)C)C(C)C | C8H19N
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
product | 4-[2-({5-[2-((S)-2-Cyclobutylcarbamoyl-pyrrolidin-1-yl)-2-oxo-ethoxy]-1-phenyl-1H-pyrazole-3-carbonyl}-amino)-acetyl]-piperazine-1-carboxylic acid 3,3,3-trifluoro-propyl ester | FC(CCOC(=O)N1CCN(CC1)C(CNC(=O)C1=NN(C(=C1)OCC(=O)N1[C@@H](CCC1)C(NC1CCC1)=O)C1=CC=CC=C1)=O)(F)F | C31H38F3N7O7
